US08530480B2
A mixture of 3-bromo-5-fluorobenzonitrile (1.6 g, 7.8 mmol), piperidine-4-carboxylic acid (2.6 g, 12.0 mmol), triethylamine (4.0 mL, 28.5 mmol) and N,N-dimethylacetamide (1.5 mL) in a sealed tube was heated to 130° C. for 48 hr. The reaction mixture was diluted with EtOAc and water. The organic layer was separated, dried (MgSO4), and concentrated to give a crude reside which was purified by chromatography on silica gel (CH2Cl2/MeOH) to afford 1-(3-bromo-5-cyanophenyl)piperidine-4-carboxylic acid.

reactant | 3-bromo-5-fluorobenzonitrile | 7.8 mmol, 1.6 g | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
reactant | piperidine-4-carboxylic acid | 12.0 mmol, 2.6 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | triethylamine | 28.5 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylacetamide | 1.5 mL | CN(C(C)=O)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 1-(3-bromo-5-cyanophenyl)piperidine-4-carboxylic acid | BrC=1C=C(C=C(C1)C#N)N1CCC(CC1)C(=O)O | C13H13BrN2O2
